US04891372
2-(4-Nitrophenoxy)ethyl chloride
A mixture of 4-nitrophenol (139 g, 1 mole), 2-(benzenesulphonyloxy)ethyl chloride (220.5 g, 1 mole--see Ber. (1920), 53, 1836) and anhydrous potassium carbonate (138 g, 1 mole) in methyl ethyl ketone ("MEK"--1000 ml) was stirred at reflux for 16 hours. After cooling, the mixture was poured onto water and the organic layer was separated. Following two further extractions with methyl ethyl ketone, the combined organic fractions were dried (MgSO4), filtered and evaporated. The resultant solid was crystallised from ethanol to give the title compound, (165.8 g), m.p. 60°.

reactant | 4-nitrophenol | 1 mole, 139 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2-(benzenesulphonyloxy)ethyl chloride | 1 mole, 220.5 g | C1(=CC=CC=C1)S(=O)(=O)OCCCl | C8H9ClO3S
reactant | potassium carbonate | 1 mole, 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | -1000 ml | C(C)C(=O)C | C4H8O
product | 2-(4-Nitrophenoxy)ethyl chloride | 165.8 g | [N+](=O)([O-])C1=CC=C(OCCCl)C=C1 | C8H8ClNO3
